US05641778
2-(3-Methoxypropoxy)-nicotinic acid ethyl ester: 2-Hydroxy-nicotinic acid ethyl ester (1.67 g), 3-methoxypropyl bromide (2.3 g) and silver carbonate (1.38 g) in toluene (80 ml) are reacted in accordance with the procedure described by Labaudiniere et al. (J. Med. Chem. 1992, 35, 4315-4324). Purification of the crude product by FC (dichloromethane-methanol-conc. ammonia 95:5:1) yields 1-(3-methoxypropoxy)-3-carbomethoxy-2(1H)-pyridinone (1.1 7 g), Rf (dichloromethane-methanol-conc. ammonia 95:5:1)=0.59, in the form of a pale-yellow oil, as well as the title compound (0.93 g), Rf (dichloromethane-methanol-conc. ammonia 95:5:1)=0.79, in the form of a yellowish oil.

reactant | 2-(3-Methoxypropoxy)-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)OCCCOC)=O | C12H17NO4
reactant | 2-Hydroxy-nicotinic acid ethyl ester | 1.67 g | C(C)OC(C1=C(N=CC=C1)O)=O | C8H9NO3
reactant | 3-methoxypropyl bromide | 2.3 g | COCCCBr | C4H9BrO
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 1.38 g | C([O-])([O-])=O.[Ag+2]
product | 1-(3-methoxypropoxy)-3-carbomethoxy-2(1H)-pyridinone | 7 g | COCCCON1C(C(=CC=C1)C(=O)OC)=O | C11H15NO5
